US07585885B2
2-Cyclobutylamino-6-methanesulfonyl-isonicotinic acid
Add 2 N NaOH (1.26 mL) to 2-cyclobutylamino-6-methanesulfonyl-isonicotinic acid methyl ester (0.24 g 0.85 mmol) in methanol (5 mL). Stir 3 h, acidify to about pH=3 with 1 N HCl, extract into ethyl acetate, wash organic layer with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (0.19 g, 86%).

reactant | NaOH | 2 N, 1.26 mL | [OH-].[Na+]
reactant | 2-cyclobutylamino-6-methanesulfonyl-isonicotinic acid methyl ester | 0.85 mmol, 0.24 g | COC(C1=CC(=NC(=C1)S(=O)(=O)C)NC1CCC1)=O | C12H16N2O4S
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 2-Cyclobutylamino-6-methanesulfonyl-isonicotinic acid | 0.19 g, 86% | C1(CCC1)NC=1C=C(C(=O)O)C=C(N1)S(=O)(=O)C | C11H14N2O4S
